US09388149B2
A mixture of 2.64 g (10 mmol, 1 eq) of methyl (R)-1-(3-amino-2-hydroxybenzoyl)pyrrolidine-2-carboxylate and 2.84 g (20 mmol, 2.0 eq) of 3,4-dimethoxy-3-cyclobutene-1,2-dione in 80 ml of ethanol was heated at 50° C. for four and a half hours. The residue was taken up with ethyl acetate and washed three times with a 1 M aqueous sodium dihydrogen phosphate solution. The organic phase was dried over anhydrous sodium sulfate, filtered and evaporated. The oil was chromatographed on silica gel (300 g prepacked column) eluted with heptane/ethyl acetate (gradient). 1.27 g of methyl (R)-1-[2-hydroxy-3-(2-methoxy-3,4-dioxocyclobut-1-enylamino)benzoyl]pyrrolidine-2-carboxylate were obtained in the form of white solid. Yield=34%.

reactant | methyl (R)-1-(3-amino-2-hydroxybenzoyl)pyrrolidine-2-carboxylate | 10 mmol, 2.64 g, 1 eq | NC=1C(=C(C(=O)N2[C@H](CCC2)C(=O)OC)C=CC1)O | C13H16N2O4
reactant | 3,4-dimethoxy-3-cyclobutene-1,2-dione | 20 mmol, 2.84 g, 2.0 eq | COC=1C(C(C1OC)=O)=O | C6H6O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | methyl (R)-1-[2-hydroxy-3-(2-methoxy-3,4-dioxocyclobut-1-enylamino)benzoyl]pyrrolidine-2-carboxylate | 1.27 g, Yield=34% | OC1=C(C(=O)N2[C@H](CCC2)C(=O)OC)C=CC=C1NC1=C(C(C1=O)=O)OC | C18H18N2O7
